US09290451B2
d) 5-Methyl-6-sulfo-pyridine-2-carboxylic acid methyl ester
To a mixture of 5-methyl-6-sulfo-pyridine-2-carboxylic acid (0.8 g, 3.69 mmol) in methanol (20 mL) was added 4 N hydrogen chloride in dioxane (8 mL). The mixture was stirred overnight at room temperature. Undissolved solid was filtered off, and the filtrate was concentrated to give the product as yellow solid 0.5 g; MS (EI): m/e=232.0 [M+H]+.

reactant | 5-methyl-6-sulfo-pyridine-2-carboxylic acid | 3.69 mmol, 0.8 g | CC=1C=CC(=NC1S(=O)(=O)O)C(=O)O | C7H7NO5S
reactant | hydrogen chloride | 4 N | Cl | ClH
reactant | methanol | 20 mL | CO | CH4O
solvent | dioxane | 8 mL | O1CCOCC1 | C4H8O2
product | 5-Methyl-6-sulfo-pyridine-2-carboxylic acid methyl ester | 0.5 g | COC(=O)C1=NC(=C(C=C1)C)S(=O)(=O)O | C8H9NO5S
